US07534460B2
Preparation of 4,8-Dimethyl-3,7-nonadien-2-yl butyrate
A flask was charged with 4,8-dimethyl-3,7-nonadien-2-ol CAS 67845-50-5 (20 grams), butyric anhydride (25 grams) and pyridine (12.5 grams). The mixture was stirred and heated to 100° C. The reaction was held at 100° C.±1° C. for 90 minutes and then cooled to room temperature. The reaction mixture was diluted with water (100 milliliters) and methyl t-butyl ether, washed several times with water until neutral pH, dried over sodium sulfate and concentrated to furnish 34.4 grams of crude product. After distillation by Kugelruhr 23.4 g of the product, 76% yield, were obtained and confirmed by 1H NMR.

reactant | 4,8-dimethyl-3,7-nonadien-2-ol | CC(=CC(C)O)CCC=C(C)C | C11H20O
reactant | butyric anhydride | 25 grams | C(CCC)(=O)OC(CCC)=O | C8H14O3
reactant | pyridine | 12.5 grams | N1=CC=CC=C1 | C5H5N
solvent | water | 100 milliliters | O | H2O
solvent | methyl t-butyl ether | C(C)(C)(C)OC | C5H12O
product | 4,8-Dimethyl-3,7-nonadien-2-yl butyrate | 34.4 grams, 76% yield | C(CCC)(=O)OC(C)C=C(CCC=C(C)C)C | C15H26O2
